US04026911
The methyl 9-oxo-5-decynoate (31.5 g, 0.16 mol) was dissolved in 250 ml MeOH containing 0.6 g quinoline. Five percent of Pd/BaSO4 (0.6 g) was added. One equivalent of H2 was absorbed at room temperature and 1 atm in 35 minutes. The catalyst was filtered, the solvent evaporated, and the residue taken up in 500 ml of ethyl acetate. It was washed twice with 125 ml 1N HCl, H2O, and brine. After drying over anhydrous MgSO4, the solvent was removed and distillation gave 24 g (80%) of methyl 9-oxo-cis-decenoate as a colorless oil, bp 93-94° C./0.4 mm. The NMR spectrum was identical to an authentic sample prepared by the Sih process. NMR (CDCl3): 1.3-2.6(m, 10H), 2.13(s, 3H), 3.65(s, 3H), 5.2-5.5ppm(m, 2H).

reactant | methyl 9-oxo-5-decynoate | 0.16 mol, 31.5 g | O=C(CCC#CCCCC(=O)OC)C | C11H16O3
solvent | MeOH | 250 ml, 0.6 g | CO | CH4O
catalyst | Pd BaSO4 | 0.6 g | [Pd].[O-]S(=O)(=O)[O-].[Ba+2]
product | methyl 9-oxo-cis-decenoate | 24 g, 80% | O=C(CCCCC\C=C/C(=O)OC)C | C11H18O3
